US06096736
A mixture of (5R)-5-cyanomethyl-1-(p-toluenesulfonyl)-2,3,4,5-tetrahydro-1H-benzazepine (102 mg), potassium hydroxide (84 mg) and ethylene glycol (2 ml) is heated with stirring at 170-175° C. for 6 hours. The reaction solution is acidified with conc. hydrochloric acid, extracted with ethyl acetate, dried over sodium sulfate, and the resulting residue is purified by silica gel column chromatography (solvent; dichloromethane:methanol;=9:1) to give (5R)-5-carboxymethyl-1-(p-toluenesulfonyl)-2,3,4,5-tetrahydro-1H-benzazepine (108 mg).

reactant | (5R)-5-cyanomethyl-1-(p-toluenesulfonyl)-2,3,4,5-tetrahydro-1H-benzazepine | 102 mg | C(#N)C[C@H]1CCCN(C2=C1C=CC=C2)S(=O)(=O)C2=CC=C(C=C2)C | C19H20N2O2S
reactant | potassium hydroxide | 84 mg | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
reactant | ethylene glycol | 2 ml | C(CO)O | C2H6O2
product | (5R)-5-carboxymethyl-1-(p-toluenesulfonyl)-2,3,4,5-tetrahydro-1H-benzazepine | 108 mg | C(=O)(O)C[C@H]1CCCN(C2=C1C=CC=C2)S(=O)(=O)C2=CC=C(C=C2)C | C19H21NO4S
